US04622326
6-Ethyl-3-(4-fluorophenyl)-6H-isoxazolo[5,4-d]pyrazolo[3,4-b]pyridine
1-Ethyl-5-(4-fluorobenzoyl)-4-hydroxy-1H-pyrazolo[3,4-b]pyridine (3.35 g) was refluxed overnight in 75 ml of pyridine containing 4.0 g of hydroxylamine hydrochloride. The solvent was then evaporated and the residue triturated with 5% hydrochloric acid The product thus obtained was washed with methanol and then chromatographed over silica gel (5% methanol/dichloromethane) to remove a trace of fluorescent impurity. After recrystallization from ethyl acetate/hexane, 2.83 g of product was obtained, mp 175°-176° C.

reactant | 1-Ethyl-5-(4-fluorobenzoyl)-4-hydroxy-1H-pyrazolo[3,4-b]pyridine | 3.35 g | C(C)N1N=CC=2C1=NC=C(C2O)C(C2=CC=C(C=C2)F)=O | C15H12FN3O2
reactant | hydroxylamine hydrochloride | Cl.NO
solvent | pyridine | 75 ml, 4.0 g | N1=CC=CC=C1 | C5H5N
product | 6-Ethyl-3-(4-fluorophenyl)-6H-isoxazolo[5,4-d]pyrazolo[3,4-b]pyridine | 2.83 g | C(C)N1N=CC=2C1=NC=C1C2ON=C1C1=CC=C(C=C1)F | C15H11FN4O
